US08445674B2
(R)-1-(4-Chloro-3-trifluoromethyl-phenyl)-4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-2-methyl-[1,4]diazepan-5-one (73% ds)
A solution of 0.049 g (0.1 mmol) of (R)-1-(4-chloro-3-trifluoromethyl-phenyl)-4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-2-methyl-1,2,3,4-tetrahydro-[1,4]diazepin-5-one (73% ds) and 0.006 ml (0.1 mmol) of acetic acid in 2 ml MeOH was treated with 0.005 g of PtO2 and was stirred over H2-atmosphere for 1 days. After filtration and evaporation, the residue was reevaporated (3 times) with toluene and the solvent was removed under vacuum to give 0.048 g (98%) of the titled compound as white foam. MS: 502.21 (MH+, Cl).

reactant | (R)-1-(4-chloro-3-trifluoromethyl-phenyl)-4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-2-methyl-1,2,3,4-tetrahydro-[1,4]diazepin-5-one | 0.1 mmol, 0.049 g | ClC1=C(C=C(C=C1)N1[C@@H](CN(C(C=C1)=O)CCCC(=O)N1C[C@H](C2(CC2)CC1)O)C)C(F)(F)F | C24H29ClF3N3O3
reactant | acetic acid | 0.1 mmol, 0.006 ml | C(C)(=O)O | C2H4O2
solvent | MeOH | 2 ml | CO | CH4O
catalyst | PtO2 | 0.005 g | O=[Pt]=O
product | (R)-1-(4-Chloro-3-trifluoromethyl-phenyl)-4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-2-methyl-[1,4]diazepan-5-one | 0.048 g, 98% | ClC1=C(C=C(C=C1)N1[C@@H](CN(C(CC1)=O)CCCC(=O)N1C[C@H](C2(CC2)CC1)O)C)C(F)(F)F | C24H31ClF3N3O3
